US07192978B2
Preparation of 2-Cyclohexyl-2-fur-2-yl-2-hydroxyacetic acid (3R)-1-methylpyrrolidin-3-yl ester
5.0 g (0.021 mol) of 2-Cyclohexyl-2-fur-2-yl-2-hydroxyacetic acid methyl ester were dissolved in 150 ml of dry toluene. To this solution 2.12 g (0.021 mol) of (3R)-1-methylpyrrolidin-3-ol (Intermediate I-19) and 500 mg (0.021 mol) of HNa were added and the mixture was refluxed using a Dean-Stark system for 24 hours. The reaction mixture was cooled, and extracted with HCl 2N. The aqueous layer was basified with K2CO3 and extracted with AcOEt (3×100 ml). The organic layers were combined, dried over Na2SO4 and evaporated to dryness to yield a residue which was purified by chromatography on silica gel eluting with chloroform plus isopropanol (0%→10%). Appropriate fractions were combined and evaporated to give 1.37 g (21%) of the title product as an oil.

reactant | 2-Cyclohexyl-2-fur-2-yl-2-hydroxyacetic acid methyl ester | 0.021 mol, 5.0 g | COC(C(O)(C=1OC=CC1)C1CCCCC1)=O | C13H18O4
reactant | (3R)-1-methylpyrrolidin-3-ol | 0.021 mol, 2.12 g | CN1C[C@@H](CC1)O | C5H11NO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclohexyl-2-fur-2-yl-2-hydroxyacetic acid (3R)-1-methylpyrrolidin-3-yl ester | 1.37 g, 21% | CN1C[C@@H](CC1)OC(C(O)(C=1OC=CC1)C1CCCCC1)=O | C17H25NO4
